US07632952B2
2nd step: A solution of 4-{[6-(4-isobutylaminobenzenesulfonyloxy)benzo-thiazol-2-ylcarbamoyl]methyl}piperidine-1-carboxylic acid tert-butyl ester (110 mg, 182 μmol), dioxane (2 ml) and 4N hydrochloric acid in dioxane is stirred for 2 hours at room temperature. The reaction medium is concentrated to dryness and the residue obtained is washed with ethyl ether to give 183 mg of 4-isobutylaminobenzenesulfonic acid 2-(2-piperid-4-ylacetylamino)benzo-thiazol-6-yl ester hydrochloride (white powder) in a yield of 64%.

reactant | 4-{[6-(4-isobutylaminobenzenesulfonyloxy)benzo-thiazol-2-ylcarbamoyl]methyl}piperidine-1-carboxylic acid tert-butyl ester | 182 μmol, 110 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCC(C)C)=O | C29H38N4O6S2
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-isobutylaminobenzenesulfonic acid 2-(2-piperid-4-ylacetylamino)benzo-thiazol-6-yl ester hydrochloride | 183 mg, yield of 64% | Cl.N1CCC(CC1)CC(=O)NC=1SC2=C(N1)C=CC(=C2)OS(=O)(=O)C2=CC=C(C=C2)NCC(C)C | InChI=1S/C24H30N4O4S2.ClH/c1-16(2)15-26-18-3-6-20(7-4-18)34(30,31)32-19-5-8-21-22(14-19)33-24(27-21)28-23(29)13-17-9-11-25-12-10-17;/h3-8,14,16-17,25-26H,9-13,15H2,1-2H3,(H,27,28,29);1H
